US05391537
Preparation of potassium 3-(4,6-dimethoxypyrimidin-2-yl)oxy-6-dimethylaminopicolinate (Compound No. 48)
9.2 g (27.5 mmol) of methyl 3-(4,6-dimethoxypyrimidin-2-yl)oxy-6-dimethylaminopicolinate was dissolved in 30 ml of methanol, and 1.55 g (27.5 mmol) of 10% potassium hydroxide was added thereto. Furthermore, 20 ml of water was added thereto, and the resultant mixture was stirred at room temperature. The reaction liquor was concentrated under reduced pressure, and acetone was added thereto to precipitate a crystal. The crystal thus obtained was separated by filtration and was washed with hexane to obtain an aimed compound.

reactant | methyl 3-(4,6-dimethoxypyrimidin-2-yl)oxy-6-dimethylaminopicolinate | 27.5 mmol, 9.2 g | COC1=NC(=NC(=C1)OC)OC=1C(=NC(=CC1)N(C)C)C(=O)OC | C15H18N4O5
reactant | potassium hydroxide | 27.5 mmol, 1.55 g | [OH-].[K+]
reactant | water | 20 ml | O | H2O
solvent | methanol | 30 ml | CO | CH4O
product | potassium 3-(4,6-dimethoxypyrimidin-2-yl)oxy-6-dimethylaminopicolinate | COC1=NC(=NC(=C1)OC)OC=1C(=NC(=CC1)N(C)C)C(=O)[O-].[K+] | InChI=1S/C14H16N4O5.K/c1-18(2)9-6-5-8(12(15-9)13(19)20)23-14-16-10(21-3)7-11(17-14)22-4;/h5-7H,1-4H3,(H,19,20);/q;+1/p-1
